US06949542B2
4-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-7-(2-methoxy-ethoxy)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-{3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(2-methoxy-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M223) (320 mg, 0.53 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (183 mg,71%).

reactant | [2-{3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(2-methoxy-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.53 mmol, 320 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCOC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O)=O | C31H34F3N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-7-(2-methoxy-ethoxy)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=NC(=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)OCCOC)C(F)(F)F)C | C26H24F3N3O3
